US08193246B2
Step a: Synthesis of Oxacycloheptadecane-2,17-dione
3 g hexadecanedicarboxlic acid and 4.5 ml acetanhydride were refluxed over night. Then the solvent was removed and the crude product recrystallized from acetonitril.

reactant | hexadecanedicarboxlic acid | 3 g | C(CCCCCCCCCCCCCCC)(C(=O)O)C(=O)O | C18H34O4
reactant | acetanhydride | 4.5 ml | CC(=O)OC(=O)C | C4H6O3
product | Oxacycloheptadecane-2,17-dione | O1C(CCCCCCCCCCCCCCC1=O)=O | C16H28O3
